US20010027161A1
To a solution of 2-methyl-4-phenylindene (10.03 g, 49.3 mmol) in 200 mL of hexanes was added dropwise over 10 minutes 32 mL of 1.6M n-BuLi. The resulting yellow suspension was stirred for 17 hours. The suspension was filtered and the solid washed twice with 5 mL of hexane. The light yellow solid was dried in vacuo for 2 hours to leave 9.21 g (89 percent yield) of lithium 2-methyl-4-phenylindenide. A second crop (0.61 g) was obtained by concentrating the filtrate to about 80 mL and filtering after 4 hours at room temperature. Overall yield was 9.82 g, 95 percent.

reactant | 2-methyl-4-phenylindene | 49.3 mmol, 10.03 g | CC=1CC2=CC=CC(=C2C1)C1=CC=CC=C1 | C16H14
reactant | n-BuLi | 1.6M, 32 mL | [Li]CCCC
product | lithium 2-methyl-4-phenylindenide | 9.21 g, 89 percent yield | CC=1[CH-]C2=CC=CC(=C2C1)C1=CC=CC=C1.[Li+] | InChI=1S/C16H13.Li/c1-12-10-14-8-5-9-15(16(14)11-12)13-6-3-2-4-7-13;/h2-11H,1H3;/q-1;+1
